US07323475B2
b) 1-Bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid methyl ester
1-Bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid (10.0 g), potassium carbonate (3.7 g) and methyl sulfate (3.4 g) were suspended in 500 ml acetone and stirred at reflux overnight. Reaction mixture was concentrated and residue partitioned between 1 N hydrochloric acid and ethyl acetate. Organic layer was dried over magnesium sulfate and filtered. Filtrate concentrated to give title compound (9.6 g). MS-(+)-ion M+1=389.9, 391.9.

reactant | 1-Bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid | 10.0 g | BrC1=NC(=C(C2=CC=C(C=C12)SC1=CC=CC=C1)O)C(=O)O | C16H10BrNO3S
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl sulfate | 3.4 g | S(=O)(=O)(OC)[O-]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-Bromo-4-hydroxy-7-phenylsulfanyl-isoquinoline-3-carboxylic acid methyl ester | 9.6 g | COC(=O)C=1N=C(C2=CC(=CC=C2C1O)SC1=CC=CC=C1)Br | C17H12BrNO3S
